US08134004B2
Step CA9B: Ethyl 7-tert-butyl-4-chloroquinoline-3-carboxylate
A mixture of Ethyl 7-tert-butyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (4.54 g, 16.6 mmol) in POCl3 (60 ml) was heated at 120° C. for 3 hours. After the solvent was evaporated in vacuo, the residue was diluted with CH2Cl2. The organic layer was poured into ammonia-water with ice-cooling. The aqueous layer was extracted with CH2Cl2 and the organic layer was washed with water, dried over sodium sulfate and concentrated in vacuo to give crude product. The crude product was purified by column chromatography on silica gel with hexane-ethyl acetate (8:1 to 6:1) to give the title compound (4.82 g) as colorless oil. 1H NMR (270 MHz, DMSO-d6) δ ppm 1.35-1.44 (3H, m), 1.42 (9H, s), 4.38-4.49 (2H, m), 7.97-8.06 (2H, m), 8.30-8.36 (1H, m),9.15 (1H, s).

reactant | Ethyl 7-tert-butyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 16.6 mmol, 4.54 g | C(C)(C)(C)C1=CC=C2C(C(=CNC2=C1)C(=O)OCC)=O | C16H19NO3
reactant | POCl3 | 60 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | Ethyl 7-tert-butyl-4-chloroquinoline-3-carboxylate | 4.82 g | C(C)(C)(C)C1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)Cl | C16H18ClNO2
